US07101892B2
2-[4-Methyl-4-(phenylsulfonyl)pent-2-ynyl]-5-phenyl-2-azabicyclo[2.2.1]heptane
A solution of 4-methyl-4-(phenylsulphonyl)butyne (208 mg, 1 mmol), 5-phenyl-2-azabicyclo[2.2.1]heptane (207 mg, 1.2 mmol), and paraformaldehyde (36 mg, 1.2 mmol) in dioxane (3 ml) was degassed three times. Cuprous chloride (10 mg) was added and the mixture was heated under reflux conditions for 1 h. The mixture was cooled and evaporated in vacuo. The residue was purified by chromatography on silica using 1–7% methanol in dichloromethane. The resulting brown oil was re-purified on alumina (grade III) using 25–50% ethyl acetate in i-hexane as eluant. The resulting oil was dissolved in ethyl acetate and ethereal hydrogen chloride added dropwise to give a white crystalline solid.

reactant | 4-methyl-4-(phenylsulphonyl)butyne | 1 mmol, 208 mg | CC(CC#C)S(=O)(=O)C1=CC=CC=C1 | C11H12O2S
reactant | 5-phenyl-2-azabicyclo[2.2.1]heptane | 1.2 mmol, 207 mg | C1(=CC=CC=C1)C1C2CNC(C1)C2 | C12H15N
reactant | paraformaldehyde | 1.2 mmol, 36 mg | C=O | CH2O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 2-[4-Methyl-4-(phenylsulfonyl)pent-2-ynyl]-5-phenyl-2-azabicyclo[2.2.1]heptane | CC(C#CCN1C2CC(C(C1)C2)C2=CC=CC=C2)(C)S(=O)(=O)C2=CC=CC=C2 | C24H27NO2S
